datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C(C1=CC=CS1)[O:21][H:20].O=S(=O)(c1ccccc1)[N-:10]c1ccccc1>>O=C(C1=CC=CS1)[O-:21].O=S(=O)(c1ccccc1)[N:10](c1ccccc1)[H:20] 10=20;20,21=21",
"CC(C)NC=[N+:21](c1ccc(-c2c[nH]cn2)cc1)[H:20].Cc1cccc([Se]CC(=O)[O-:10])c1>>CC(C)NC=[N:21]c1ccc(-c2c[nH]cn2)cc1.Cc1cccc([Se]CC(=O)[O:10][H:20])c1 10=20;20,21=21",
"Cc1c(O)cccc1C(=O)[O:21][H:20].N#CC(C#N)=N[N-:10]c1ccccc1Br>>Cc1c(O)cccc1C(=O)[O-:21].N#CC(C#N)=N[N:10](c1ccccc1Br)[H:20] 10=20;20,21=21",
"C=Cc1cccc[n:10]1.CC1(C)[C@H]2CC[C@@]1(C)[C@@H](N)[C@H]2C[N+:21](C)(C)[H:20]>>C=Cc1cccc[n+:10]1[H:20].CC1(C)[C@H]2CC[C@@]1(C)[C@@H](N)[C@H]2C[N:21](C)C 10=20;20,21=21",
"Nc1ccc2ccn[n+:21]([H:20])c2c1.O=C(c1cccc(Br)c1)[O-:10]>>Nc1ccc2ccn[n:21]c2c1.O=C(c1cccc(Br)c1)[O:10][H:20] 10=20;20,21=21",
"CCCCCCCCCC[N+:21](CC(C)O)(CC(O)CC)[H:20].CNc1nc(NC)[n:10]c2[nH]ncc12>>CCCCCCCCCC[N:21](CC(C)O)CC(O)CC.CNc1nc(NC)[n+:10]([H:20])c2[nH]ncc12 10=20;20,21=21",
"NCc1ccc(S(=O)(=O)[NH:21][H:20])cc1.c1cn[n-:10]c1>>NCc1ccc(S(=O)(=O)[NH-:21])cc1.c1cn[n:10]([H:20])c1 10=20;20,21=21",
"OCCC[C@H]1CC[C@@H]2CCC[N:10]12.c1ccc([S:21][H:20])[nH+]c1>>OCCC[C@H]1CC[C@@H]2CCC[N+:10]12[H:20].c1ccc([S-:21])[nH+]c1 10=20;20,21=21",
"CCc1ccc(C)n[n+:21]1[H:20].O=C1O[C@@H]([C@H](O)CO)C([O-:10])=C1O>>CCc1ccc(C)n[n:21]1.O=C1O[C@@H]([C@H](O)CO)C([O:10][H:20])=C1O 10=20;20,21=21",
"CN(C)CCC[N+:21](C)(C)[H:20].O=C(Cc1ccccc1)C(C[N:10]1CCOCC1)c1ccccc1>>CN(C)CCC[N:21](C)C.O=C(Cc1ccccc1)C(C[N+:10]1([H:20])CCOCC1)c1ccccc1 10=20;20,21=21",
"CCCC[NH:10]C.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CCCC[NH+:10](C)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CCN(C#[N+:21][H:20])CC.CN1C([O-])=NC(=O)c2c1nc[n-:10]2>>CCN(C#[N:21])CC.CN1C([O-])=NC(=O)c2c1nc[n:10]2[H:20] 10=20;20,21=21",
"CC(O)C[NH:10]CCO.OCc1nc2cc(Cl)ccc2[n:21]1[H:20]>>CC(O)C[NH+:10](CCO)[H:20].OCc1nc2cc(Cl)ccc2[n-:21]1 10=20;20,21=21",
"COc1ccc(S(=O)(=O)[N-:10]c2ccccc2)cc1.O=C(/C=C/c1ccc(O)cc1)[O:21][H:20]>>COc1ccc(S(=O)(=O)[N:10](c2ccccc2)[H:20])cc1.O=C(/C=C/c1ccc(O)cc1)[O-:21] 10=20;20,21=21",
"CC(Cl)C[NH2+:21][H:20].C[Si](C)(C)C[NH:10]c1ccccc1>>CC(Cl)C[NH2:21].C[Si](C)(C)C[NH+:10](c1ccccc1)[H:20] 10=20;20,21=21",
"CCCC[NH:10]CCN.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCCC[NH+:10](CCN)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"Cc1ccc(OC(=O)CCC[N+:21](C)(C)[H:20])cc1.O=C(CC[N:10]1CCOCC1)c1cccc(Br)c1>>Cc1ccc(OC(=O)CCC[N:21](C)C)cc1.O=C(CC[N+:10]1([H:20])CCOCC1)c1cccc(Br)c1 10=20;20,21=21",
"C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(Cl)C([N+](=O)[O-])=C2)[H:20])C=C1.C[NH+](c1ccccc1)C([O-])[O-:10]>>C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(Cl)C([N+](=O)[O-])=C2)C=C1.C[NH+](c1ccccc1)C([O-])[O:10][H:20] 10=20;20,21=21",
"Cc1[nH]nc([O-])[n+:21]1[H:20].O=Cc1ccc([O-:10])cc1>>Cc1[nH]nc([O-])[n:21]1.O=Cc1ccc([O:10][H:20])cc1 10=20;20,21=21",
"CCOc1ccc(C(=O)[O:21][H:20])c(C)c1.Cc1ccc(OC(CBr)(c2ccccc2)[O-:10])cc1>>CCOc1ccc(C(=O)[O-:21])c(C)c1.Cc1ccc(OC(CBr)(c2ccccc2)[O:10][H:20])cc1 10=20;20,21=21",
"C(=C(c1ccccc1)[O-:10])c1ccccn1.CCCC[NH+:21](c1ccccc1)[H:20]>>C(=C(c1ccccc1)[O:10][H:20])c1ccccn1.CCCC[NH:21]c1ccccc1 10=20;20,21=21",
"C#CC[NH:10]c1ccccc1.N#Cc1ccc(O[C@H]2O[C@@H](C(=O)[O:21][H:20])[C@H](O)[C@@H](O)[C@@H]2O)cc1>>C#CC[NH+:10](c1ccccc1)[H:20].N#Cc1ccc(O[C@H]2O[C@@H](C(=O)[O-:21])[C@H](O)[C@@H](O)[C@@H]2O)cc1 10=20;20,21=21",
"Cc1ccc(C2C[NH:10]2)cc1.[NH3+]c1ccccc1[NH2+:21][H:20]>>Cc1ccc(C2C[NH+:10]2[H:20])cc1.[NH3+]c1ccccc1[NH2:21] 10=20;20,21=21",
"COC(=O)c1cccc[n:10]1.[NH3+]CCCCCCCCCCC(=O)[O:21][H:20]>>COC(=O)c1cccc[n+:10]1[H:20].[NH3+]CCCCCCCCCCC(=O)[O-:21] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])C(Cc1nc[nH]c1I)[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])C(Cc1nc[nH]c1I)[NH2+:10][H:20] 10=20;20,21=21",
"Cn1cnc2nc[n+:21]([H:20])c([O-])c21.c1ccc(C[N:10]2CCCC2)cc1>>Cn1cnc2nc[n:21]c([O-])c21.c1ccc(C[N+:10]2([H:20])CCCC2)cc1 10=20;20,21=21",
"O=C(c1cc(-c2ccccc2)n[nH+]c1NCC[NH+]1CCOCC1)[O-:10].O=C(c1cc2ccccc2o1)[O:21][H:20]>>O=C(c1cc(-c2ccccc2)n[nH+]c1NCC[NH+]1CCOCC1)[O:10][H:20].O=C(c1cc2ccccc2o1)[O-:21] 10=20;20,21=21",
"COc1ccc(C(=S)[N:21](c2ccccc2)[H:20])cc1.O=C(C(=NO)c1ccccc1)[NH-:10]>>COc1ccc(C(=S)[N-:21]c2ccccc2)cc1.O=C(C(=NO)c1ccccc1)[NH:10][H:20] 10=20;20,21=21",
"O/N=C/c1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O/N=C/c1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COCC[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C([N+](=O)[O-])C=C2)[H:20])=C1>>COCC[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C([N+](=O)[O-])C=C2)=C1 10=20;20,21=21",
"Cc1c(C)c([O-:10])c(C)c(C)c1O.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1c(C)c([O:10][H:20])c(C)c(C)c1O.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC=C1C[N+:21]2([H:20])[C@@H]3C[C@H]1C1[C@@H](O)[C@]4(C[C@@H]12)c1ccccc1N(C)[C@@H]34.C[PH2:10]>>CC=C1C[N:21]2[C@@H]3C[C@H]1C1[C@@H](O)[C@]4(C[C@@H]12)c1ccccc1N(C)[C@@H]34.C[PH2+:10][H:20] 10=20;20,21=21",
